### PR TITLE
[Merged by Bors] - chore(SetTheory/Game/Impartial): cleanup proofs

### PR DESCRIPTION
**Pull request by vihdzp**
We clean up remnants of the Lean 3 `termination_by` syntax, as well as some exposed setoid API.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Game/Impartial.lean [hunk 1]
```diff
@@ -68,49 +69,47 @@ instance moveRight_impartial {G : PGame} [h : G.Impartial] (j : G.RightMoves) :
...
-termination_by G => G
+theorem impartial_congr {G H : PGame} (e : G ≡r H) [G.Impartial] : H.Impartial :=
+  impartial_def.2
+    ⟨Equiv.trans e.symm.equiv (Equiv.trans (neg_equiv_self G) (neg_equiv_neg_iff.2 e.equiv)),
+      fun i => impartial_congr (e.moveLeftSymm i), fun j => impartial_congr (e.moveRightSymm j)⟩
+termination_by G
+
+instance impartial_add (G H : PGame) [G.Impartial] [H.Impartial] : (G + H).Impartial := by
+  rw [impartial_def]
+  refine ⟨Equiv.trans (add_congr (neg_equiv_self G) (neg_equiv_self _))
```
Comment (b-mehta) [inline Mathlib/SetTheory/Game/Impartial.lean:80]: Looks like this line can be golfed with some dot notation, if you like

File: Mathlib/SetTheory/Game/Impartial.lean [hunk 2]
```diff
@@ -47,18 +46,20 @@ theorem impartial_def {G : PGame} :
 
 namespace Impartial
 
-instance impartial_zero : Impartial 0 := by rw [impartial_def]; dsimp; simp
+instance impartial_zero : Impartial 0 := by
+  rw [impartial_def]
+  simp
```
Comment (b-mehta) [inline Mathlib/SetTheory/Game/Impartial.lean:51]: I wonder if `simp [impartial_def]` works as the proof here, and below?

**Review by b-mehta — APPROVED** [review]
Very nice!

bors d+

File: Mathlib/SetTheory/Game/Impartial.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/Impartial.lean:80]: Dot notation is broken on `PGame.Equiv` for whatever reason.

Comment (b-mehta) [reply Mathlib/SetTheory/Game/Impartial.lean:80]: Hmm, sounds like that should be fixed, or reported as an issue

File: Mathlib/SetTheory/Game/Impartial.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/Impartial.lean:51]: No, since `impartial_def` refers to `Impartial` this just causes an infinite recursion.

File: Mathlib/SetTheory/Game/Impartial.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Game/Impartial.lean:80]: Looked into it, the issue is that the `≈` notation is setoid notation, rather than notation for `PGame.Equiv` itself.
